US06955851B2
A mixture of magnesium (125.2 g, 5.15 mol), 1,2-dibromoethane (0.1 g, 0.5 mmol) and dry THF (1 L) were stirred under a blanket of nitrogen at rt for 1 h. The mixture was brought to 65° C. and 1-bromonaphthalene (343.7 g, 1.66 mol) was added by drop. Once the reaction initiated, the heating was removed and the 1-bromonaphthalene addition was continued for 2 h at a rate to maintain 55° C. 4-Bromoanisole (623.5 g, 3.33 mol) was then added over 4 h. The temperature was adjusted to 65° C. and held for a further 3 h. Phosphorus oxychloride (255.5 g, 1.66 mol) was then added by drop to maintain a temperature of 50-60° C. over 6 hours. The temperature was then adjusted to 50° C. and held overnight. The reaction mixture worked up to afford bis(4-methoxyphenyl)(1-naphthyl)phosphine oxide mixture as an amber solid (508 g, 79 yield %). 31P NMR (CDCl3): δ 37.49 (s, 3.0%), 35.32 (s, 2.4%), 33.64 (s, 31.1%), 30.37 (s, 50.8%), 19.59 (s, 12.7%).

reactant | magnesium | 5.15 mol, 125.2 g | [Mg] | Mg
reactant | 1,2-dibromoethane | 0.5 mmol, 0.1 g | BrCCBr | C2H4Br2
reactant | 1-bromonaphthalene | 1.66 mol, 343.7 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | 4-Bromoanisole | 3.33 mol, 623.5 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | Phosphorus oxychloride | 1.66 mol, 255.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | bis(4-methoxyphenyl)(1-naphthyl)phosphine oxide | COC1=CC=C(C=C1)P(C1=CC=CC2=CC=CC=C12)(C1=CC=C(C=C1)OC)=O | C24H21O3P
